US05763489
To a mixture of lithium aluminum hydride (0.28 g) in dry tetrahydrofuran (THF) (5 ml) was added dropwise a solution of (S)-methyl [5-methoxy-1,2,3,4-tetrahydro-2-naphthyl]formate (1.65 g) in THF (7 ml) at -60° C. under nitrogen. After 1 hour, a mixture of 1N hydrochloric acid solution (5 ml) and THF (5 ml) was added dropwise to the reaction mixture at -60° C. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with 1N hydrochloric acid solution, sodium hydrogencarbonate solution and brine, dried over magnesium sulfate, and evaporated in vacuo to give (5-methoxy-1,2,3,4-tetrahydro-2-naphthyl)methanol as a white powder (1.23 g). [α]D30 =71.98° (C=1.26, CH2Cl2)

reactant | lithium aluminum hydride | 0.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-methyl [5-methoxy-1,2,3,4-tetrahydro-2-naphthyl]formate | 1.65 g | COC1=C2CC[C@@H](CC2=CC=C1)C(=O)OC | C13H16O3
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | THF | 7 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
product | (5-methoxy-1,2,3,4-tetrahydro-2-naphthyl)methanol | 1.23 g | COC1=C2CCC(CC2=CC=C1)CO | C12H16O2
